US03932427
N-Methyl-N'-[2-(4-pyridylmethylamino)ethyl]thiourea
Methylisothiocyanate (1.46 g.) was added slowly to a solution of N-(4-picolyl)ethylenediamine (3.3 g.) in ethanol (25 ml.) The mixture was heated under reflux for 0.5 hours concentrated and extracted with isopropyl acetate to remove N-4-picolyl-N,N'-dimethylethane-1,2-bis thiourea (m.p. 173°-174°). The mother liquors were concentrated and the residue purified by column chromatography to afford the title compound.

reactant | Methylisothiocyanate | 1.46 g | CN=C=S | C2H3NS
reactant | N-(4-picolyl)ethylenediamine | 3.3 g | N1=CC=C(C=C1)CNCCN | C8H13N3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-Methyl-N'-[2-(4-pyridylmethylamino)ethyl]thiourea | CNC(=S)NCCNCC1=CC=NC=C1 | C10H16N4S
